US04140789
5.3 g of methyl chloroformate are added dropwise to a solution of 16.2 g of 2-aminomethyl-3-[2-hydroxy-3-(N-benzyl-tert.-butylamino)-propoxy]-aniline in a mixture of 150 ml of isopropanol and 150 ml of water, at 15°-20°, whilst stirring and cooling with ice. The reaction mixture is stirred at room temperature for a further 2 hours and then evaporated. The residue is dissolved in 100 ml of water, the solution is extracted with 50 ml of ether and the aqueous phase is rendered alkaline with concentrated ammonia and extracted 3 times with, in each case, 200 ml of ethyl acetate. The residue which remains after evaporating the organic phase is dissolved in 50 ml of methanol and boiled with 4.86 g of sodium methylate under reflux for 3 hours. The crystalline precipitate which gradually forms is filtered off after cooling the reaction mixture in an ice bath, whereupon 5-[3-(N-benzyl-tert.-butylamino)-2-hydroxy-propoxy]-3,4-dihydro-1H-quinazolin-2-one with a melting point of 215°-217° is obtained.

reactant | methyl chloroformate | 5.3 g | ClC(=O)OC | C2H3ClO2
reactant | 2-aminomethyl-3-[2-hydroxy-3-(N-benzyl-tert.-butylamino)-propoxy]-aniline | 16.2 g | NCC1=C(N)C=CC=C1OCC(CN(CC1=CC=CC=C1)C(C)(C)C)O | C21H31N3O2
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
solvent | water | 150 ml | O | H2O
product | 5-[3-(N-benzyl-tert.-butylamino)-2-hydroxy-propoxy]-3,4-dihydro-1H-quinazolin-2-one | C(C1=CC=CC=C1)N(CC(COC1=C2CNC(NC2=CC=C1)=O)O)C(C)(C)C | C22H29N3O3
